* Z:\home\zhonx\Bureau\UHER\1200_MIC\Simulation_1200_MIC_Original\1200_MIC.asc
Q1 N004 N005 P001 0 BC547B
R1 N006 N005 100 tol=1 pwr=0.1
C1 N005 N010 0.0047µ V=25 Irms=192m Rser=1.19094 Lser=0 mfg="KEMET" pn="C0402C472K3RAC" type="X7R"
R2 P001 N010 330 tol=1 pwr=0.1
R3 N010 0 7.5K tol=1 pwr=0.1
C2 N010 MIC1 100µ V=6.3 Irms=175m Rser=0.65 Lser=0 mfg="Panasonic" pn="ECA0JFQ101" type="Al electrolytic"
C3 N004 NC_01 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R4 N001 N004 10K tol=1 pwr=0.1
C4 N007 N017 220µ V=6.3 Irms=290m Rser=0.3 Lser=0 mfg="Panasonic" pn="ECA0JFQ221" type="Al electrolytic"
R5 N001 N006 10K tol=1 pwr=0.1
R6 N006 0 6.2K tol=1 pwr=0.1
C5 N006 0 100p V=6.3 Irms=728m Rser=0.14361 Lser=0
Q2 N003 N004 N007 0 BC547B
Q3 N008 N003 N002 0 BC557B
R7 N002 N003 15K tol=1 pwr=0.1
R9 N002 N001 330 tol=1 pwr=0.1
V1 N002 0 4.9
C6 N002 0 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R8 N008 N007 10K tol=1 pwr=0.1
C7 N007 N004 0.0022µ V=6.3 Irms=56.2m Rser=1.80898 Lser=0 mfg="KEMET" pn="C0402C222K9RAC" type="X7R"
C8 N008 N007 100p V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM0335C1E101JA01" type="C0G"
R10 N018 N017 100 tol=1 pwr=0.1
R11 N018 0 9k
R12 0 N009 10K
R13 N009 P002 3.3K tol=1 pwr=0.1
C9 N008 P002 47µ V=6.3 Irms=0 Rser=1.1 Lser=0 mfg="AVX" pn="TAJD476M006" type="Tantalum"
R14 0 N009 1k
R18 N014 N009 22K tol=1 pwr=0.1
C10 N015 N014 1µ V=50 Irms=12m Rser=22 Lser=0 mfg="Nichicon" pn="UPR1H010MAH" type="Al electrolytic"
Q4 N012 N015 N016 0 BC547B
R19 N002 N011 68K tol=1 pwr=0.1
R20 N011 0 100K tol=1 pwr=0.1
C11 N011 N016 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
C12 N016 OUT1 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R21 N015 N011 100K tol=1 pwr=0.1
R22 N002 N012 1K tol=1 pwr=0.1
R23 N016 0 8.2K tol=1 pwr=0.1
V2 MIC1 0 SINE(0 20m 1K)
C13 N001 0 220µ V=6.3 Irms=290m Rser=0.3 Lser=0 mfg="Panasonic" pn="ECA0JFQ221" type="Al electrolytic"
R16 N008 0 2.7K tol=1 pwr=0.1
V3 IN1 0 SINE(0 10m 1K)
Q5 N023 N024 P003 0 BC547B
R17 N025 N024 100 tol=1 pwr=0.1
C14 N024 N029 0.0047µ V=25 Irms=192m Rser=1.19094 Lser=0 mfg="KEMET" pn="C0402C472K3RAC" type="X7R"
R24 P003 N029 330 tol=1 pwr=0.1
R25 N029 0 7.5K tol=1 pwr=0.1
C15 N029 NC_02 100µ V=6.3 Irms=175m Rser=0.65 Lser=0 mfg="Panasonic" pn="ECA0JFQ101" type="Al electrolytic"
C16 N023 IN2 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R26 N021 N023 10K tol=1 pwr=0.1
C17 N026 N036 220µ V=6.3 Irms=290m Rser=0.3 Lser=0 mfg="Panasonic" pn="ECA0JFQ221" type="Al electrolytic"
R27 N021 N025 10K tol=1 pwr=0.1
R28 N025 0 6.2K tol=1 pwr=0.1
C18 N025 0 100p V=6.3 Irms=728m Rser=0.14361 Lser=0
Q6 N022 N023 N026 0 BC547B
Q7 N027 N022 N020 0 BC557B
R29 N020 N022 15K tol=1 pwr=0.1
R30 N020 N021 330 tol=1 pwr=0.1
V4 N020 0 4.9
C19 N020 0 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R31 N027 N026 10K tol=1 pwr=0.1
C20 N026 N023 0.0022µ V=6.3 Irms=56.2m Rser=1.80898 Lser=0 mfg="KEMET" pn="C0402C222K9RAC" type="X7R"
C21 N027 N026 100p V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM0335C1E101JA01" type="C0G"
R32 N037 N036 100 tol=1 pwr=0.1
R33 N037 0 7k
R34 0 N028 10k
R35 N028 P004 3.3K tol=1 pwr=0.1
C22 N027 P004 47µ V=6.3 Irms=0 Rser=1.1 Lser=0 mfg="AVX" pn="TAJD476M006" type="Tantalum"
R36 0 N028 3k
R38 N033 N028 22K tol=1 pwr=0.1
C23 N034 N033 1µ V=50 Irms=12m Rser=22 Lser=0 mfg="Nichicon" pn="UPR1H010MAH" type="Al electrolytic"
Q8 N031 N034 N035 0 BC547B
R39 N020 N030 68K tol=1 pwr=0.1
R40 N030 0 100K tol=1 pwr=0.1
C24 N030 N035 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
C25 N035 OUT2 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R41 N034 N030 100K tol=1 pwr=0.1
R42 N020 N031 1K tol=1 pwr=0.1
R43 N035 0 8.2K tol=1 pwr=0.1
V5 MIC2 0 SINE(0 1m 2K)
C26 N021 0 220µ V=6.3 Irms=290m Rser=0.3 Lser=0 mfg="Panasonic" pn="ECA0JFQ221" type="Al electrolytic"
R44 N027 0 2.7K tol=1 pwr=0.1
V6 IN2 0 SINE(0 447m 1K)
J2 N014 N019 N033 J176
R45 N020 N019 1Meg tol=1 pwr=0.1
R46 OUT1 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\users\zhonx\Mes documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\users\zhonx\Mes documents\LTspiceXVII\lib\cmp\standard.jft
.tran 10m
.backanno
.end
