* Z:\home\zhonx\Bureau\UHER\1200_MIC\Simulation_1200_MIC_Original\1200_MIC_modif.asc
Q1 N004 N005 P001 0 BC547B
R1 N006 N005 100 tol=1 pwr=0.1
R2 P001 P002 330 tol=1 pwr=0.1
R3 P002 0 7.5K tol=1 pwr=0.1
C3 N004 IN1 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R4 N001 N004 10K tol=1 pwr=0.1
C4 N007 N016 220µ V=6.3 Irms=290m Rser=0.3 Lser=0 mfg="Panasonic" pn="ECA0JFQ221" type="Al electrolytic"
R5 N001 N006 10K tol=1 pwr=0.1
R6 N006 0 6.2K tol=1 pwr=0.1
C5 N006 0 100p V=6.3 Irms=728m Rser=0.14361 Lser=0
Q2 N003 N004 N007 0 BC547B
Q3 N008 N003 N002 0 BC557B
R7 N002 N003 15K tol=1 pwr=0.1
R9 N002 N001 330 tol=1 pwr=0.1
V1 N002 0 4.9
C6 N002 0 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R8 N008 N007 10K tol=1 pwr=0.1
C7 N007 N004 0.0022µ V=6.3 Irms=56.2m Rser=1.80898 Lser=0 mfg="KEMET" pn="C0402C222K9RAC" type="X7R"
C8 N008 N007 100p V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM0335C1E101JA01" type="C0G"
R10 N017 N016 100 tol=1 pwr=0.1
R11 N017 0 9k
R12 0 N009 10K
R13 N009 P003 3.3K tol=1 pwr=0.1
C9 N008 P003 47µ V=6.3 Irms=0 Rser=1.1 Lser=0 mfg="AVX" pn="TAJD476M006" type="Tantalum"
R14 0 N009 1k
R18 N013 N009 22K tol=1 pwr=0.1
C10 N014 N013 1µ V=50 Irms=12m Rser=22 Lser=0 mfg="Nichicon" pn="UPR1H010MAH" type="Al electrolytic"
Q4 N011 N014 N015 0 BC547B
R19 N002 N010 68K tol=1 pwr=0.1
R20 N010 0 100K tol=1 pwr=0.1
C11 N010 N015 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
C12 N015 OUT1 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R21 N014 N010 100K tol=1 pwr=0.1
R22 N002 N011 1K tol=1 pwr=0.1
R23 N015 0 8.2K tol=1 pwr=0.1
V2 MIC1 0 SINE(0 20m 1K)
C13 N001 0 220µ V=6.3 Irms=290m Rser=0.3 Lser=0 mfg="Panasonic" pn="ECA0JFQ221" type="Al electrolytic"
R16 N008 0 2.7K tol=1 pwr=0.1
V3 IN1 0 SINE(0 100m 1K)
Q5 N022 N023 P004 0 BC547B
R17 N024 N023 100 tol=1 pwr=0.1
C14 N023 N028 0.0047µ V=25 Irms=192m Rser=1.19094 Lser=0 mfg="KEMET" pn="C0402C472K3RAC" type="X7R"
R24 P004 N028 330 tol=1 pwr=0.1
R25 N028 0 7.5K tol=1 pwr=0.1
C15 N028 NC_01 100µ V=6.3 Irms=175m Rser=0.65 Lser=0 mfg="Panasonic" pn="ECA0JFQ101" type="Al electrolytic"
C16 N022 IN2 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R26 N020 N022 10K tol=1 pwr=0.1
C17 N025 N035 220µ V=6.3 Irms=290m Rser=0.3 Lser=0 mfg="Panasonic" pn="ECA0JFQ221" type="Al electrolytic"
R27 N020 N024 10K tol=1 pwr=0.1
R28 N024 0 6.2K tol=1 pwr=0.1
C18 N024 0 100p V=6.3 Irms=728m Rser=0.14361 Lser=0
Q6 N021 N022 N025 0 BC547B
Q7 N026 N021 N019 0 BC557B
R29 N019 N021 15K tol=1 pwr=0.1
R30 N019 N020 330 tol=1 pwr=0.1
V4 N019 0 4.9
C19 N019 0 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R31 N026 N025 10K tol=1 pwr=0.1
C20 N025 N022 0.0022µ V=6.3 Irms=56.2m Rser=1.80898 Lser=0 mfg="KEMET" pn="C0402C222K9RAC" type="X7R"
C21 N026 N025 100p V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM0335C1E101JA01" type="C0G"
R32 N036 N035 100 tol=1 pwr=0.1
R33 N036 0 7k
R34 0 N027 10k
R35 N027 P005 3.3K tol=1 pwr=0.1
C22 N026 P005 47µ V=6.3 Irms=0 Rser=1.1 Lser=0 mfg="AVX" pn="TAJD476M006" type="Tantalum"
R36 0 N027 3k
R38 N032 N027 22K tol=1 pwr=0.1
C23 N033 N032 1µ V=50 Irms=12m Rser=22 Lser=0 mfg="Nichicon" pn="UPR1H010MAH" type="Al electrolytic"
Q8 N030 N033 N034 0 BC547B
R39 N019 N029 68K tol=1 pwr=0.1
R40 N029 0 100K tol=1 pwr=0.1
C24 N029 N034 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
C25 N034 OUT2 4.7µ V=25 Irms=24m Rser=5 Lser=0 mfg="Nichicon" pn="UPR1E4R7MAH" type="Al electrolytic"
R41 N033 N029 100K tol=1 pwr=0.1
R42 N019 N030 1K tol=1 pwr=0.1
R43 N034 0 8.2K tol=1 pwr=0.1
V5 MIC2 0 SINE(0 1m 2K)
C26 N020 0 220µ V=6.3 Irms=290m Rser=0.3 Lser=0 mfg="Panasonic" pn="ECA0JFQ221" type="Al electrolytic"
R44 N026 0 2.7K tol=1 pwr=0.1
V6 IN2 0 SINE(0 447m 1K)
J2 N013 N018 N032 J176
R45 N019 N018 1Meg tol=1 pwr=0.1
R46 OUT1 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\users\zhonx\Mes documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\users\zhonx\Mes documents\LTspiceXVII\lib\cmp\standard.jft
.tran 1000m
.backanno
.end
